US07781436B2
To a stirred solution of 0.50 g (1.32 mmol) of [1-(6-chloro-1H-indole-3-carbonyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (the preparation of which has been described in example 31) in CH2Cl2 (10 ml), were added 2 ml of TFA. The mixture was stirred 2 hours, then poured onto an aqueous solution of sat. NaHCO3 and then extracted with ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated in vacuo, to afford 0.25 g (68%) of (4-amino-piperidin-1-yl)-(6-chloro-1H-indol-3-yl)-methanone as a light brown solid.

reactant | [1-(6-chloro-1H-indole-3-carbonyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 1.32 mmol, 0.50 g | C(C)(C)(C)OC(NC1CCN(CC1)C(=O)C1=CNC2=CC(=CC=C12)Cl)=O | C19H24ClN3O3
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (4-amino-piperidin-1-yl)-(6-chloro-1H-indol-3-yl)-methanone | 0.25 g, 68% | NC1CCN(CC1)C(=O)C1=CNC2=CC(=CC=C12)Cl | C14H16ClN3O
